US08980934B2
1-(2-chlorophenyl)-2-methyl-propan-1-one
A solution of 1-(2-chlorophenyl)-2-methylpropan-1-ol (1.5 g in 15 mL DCM) was added is to a suspension of PCC (2.62 g in 30 mL DCM) at 25° C., monitoring the reaction by TLC. After 2 h, Et2O (120 mL) was added and the reaction mixture was stirred for 15 min. The supernatant was decanted, dried (Na2SO4) and concentrated under vacuum. Purification by flash chromatography (SiO2, 0-10% EtOAc in hexanes) gave the title compound as a clear colorless oil (1.24 g, 82%). 1H NMR (400 MHz, CDCl3) δ ppm 7.41-7.27 (m, 4H), 3.37-3.30 (m, 1H), 1.19 (d, J=6.8 Hz, 6H).

reactant | 1-(2-chlorophenyl)-2-methylpropan-1-ol | 15 mL, 1.5 g | ClC1=C(C=CC=C1)C(C(C)C)O | C10H13ClO
reactant | PCC | 30 mL, 2.62 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | Et2O | 120 mL | CCOCC | C4H10O
product | 1-(2-chlorophenyl)-2-methyl-propan-1-one | 1.24 g, 82% | ClC1=C(C=CC=C1)C(C(C)C)=O | C10H11ClO
